US08557983B2
methyl 2-(6-(tert-butoxycarbonylamino)-5-fluoropyridin-3-yloxy)-4-(piperazin-1-yl)benzoate
Methyl 2-(6-(tert-butoxycarbonylamino)-5-fluoropyridin-3-yloxy)-4-fluorobenzoate (0.170 g) and piperazine (0.154 g) were dissolved in dimethylsulfoxide (2 mL) and heated to 85° C. After 1 hour, the reaction was cooled, poured into dichloromethane (75 mL), and washed with water (30 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated to give the title compound.

reactant | Methyl 2-(6-(tert-butoxycarbonylamino)-5-fluoropyridin-3-yloxy)-4-fluorobenzoate | 0.170 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C=N1)OC1=C(C(=O)OC)C=CC(=C1)F)F | C18H18F2N2O5
reactant | piperazine | 0.154 g | N1CCNCC1 | C4H10N2
reactant | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
product | methyl 2-(6-(tert-butoxycarbonylamino)-5-fluoropyridin-3-yloxy)-4-(piperazin-1-yl)benzoate | C(C)(C)(C)OC(=O)NC1=C(C=C(C=N1)OC1=C(C(=O)OC)C=CC(=C1)N1CCNCC1)F | C22H27FN4O5
